US06846819B1
Preparation of 2-(methylaminomethyl)thieno[2,3-b]thiophene
A suspension of ethyl thieno[2,3-b]thiophene-2-carboxylate (3.84 g, 18.1 mmole) in 40% aqueous CH3NH2 (100 mL) and MeOH (10 mL) was stirred at RT for 18 hr. During that time the suspension became a solution. The mixture was concentrated to approximately ⅓ volume at which time the product precipitated. The solid was collected by filtration, washed with H2O, and dried in vacuo to give the title compound (3.01 g, 85%): 1H NMR (400 MHz, d6-DMSO) δ 8.60 (bs,1H), 7.92 (s,1H), 7.67 (d, J=5.2 Hz, 1H), 7.38 (d, J=5.2 Hz,1H), 2.78 (d, J=4.6 Hz. 3H).

reactant | ethyl thieno[2,3-b]thiophene-2-carboxylate | 18.1 mmole, 3.84 g | S1C(=CC2=C1SC=C2)C(=O)OCC | C9H8O2S2
reactant | CH3NH2 | 100 mL | CN | CH5N
solvent | MeOH | 10 mL | CO | CH4O
product | 2-(methylaminomethyl)thieno[2,3-b]thiophene | 3.01 g, 85% | CNCC1=CC2=C(SC=C2)S1 | C8H9NS2
